US05190969
Preparation of N,N-Diethyl-(2R-cis)-3-nonyloxiranecarboxy amide
A solution of 75 mg 90.35 mmole) of (2R-cis)-3-nonyloxiranecarboxylic acid and 0.148 ml (106 mg, 1.05 mmole) of triethylamine in 5 ml of THF was prepared under argon and cooled to 0° C. To this solution 50 mg (0.37 mmole) of isobutylchloroformate was added and the mixture was allowed to stir of 30 min. Diethylamine (0.109 ml, 76 mg, 1.05 mmole) was then added and the mixture stirred for an additional 2 hours. The reaction was diluted with 75 ml of Et2O, washed with 50 ml of saturated NaHCO3, 30 ml of brine, dried over MgSO4, filtered and evaporated to yield a clear residue. This residue was flash chromatographed (25 mm column; 5% MeOH:CHCl3) to afford 80 mg of a clear oil. 1H NMR 3.57 (d, 1, J=4 Hz), 3.6-3.3 (m, 4), 3.2 (m, 1), 1.6-1.2 (m, 19), 1.13 (t, 3, J=7 Hz), 0.88 (t, 3, J=7 Hz). Mass Spectra: M+(1.5)269, M-OH(1.3)252, M(100)100.1.

reactant | (2R-cis)-3-nonyloxiranecarboxylic acid | C(CCCCCCCC)[C@@H]1[C@@H](O1)C(=O)O | C12H22O3
reactant | triethylamine | 1.05 mmole, 0.148 ml, 106 mg | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.37 mmole, 50 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Diethylamine | 1.05 mmole, 0.109 ml, 76 mg | C(C)NCC | C4H11N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Et2O | 75 ml | CCOCC | C4H10O
product | N,N-Diethyl-(2R-cis)-3-nonyloxiranecarboxy amide | 80 mg | C(C)N(C(=O)C[C@H]1O[C@H]1CCCCCCCCC)CC | C17H33NO2
